US06596773B2
b) N-(2-Benzoyl-4-chloro-phenyl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide
To a solution of 154 mg (0.3 mmol) of N-(2-benzoyl-4-chloro-phenyl)-2-(3,5-bis-trifluoromethyl-phenyl)-isobutyramide in 1 ml dimethylformamide were added 26 mg (0.6 mmol) sodium hydride (55% suspension in mineral oil). After 30 min stirring at room temperature 85 mg of methyl iodide (0.6 mmol) were added and the reaction mixture was stirred at 80° C. overnight. The solvent was evaporated under reduced pressure and the residue was purified by flash chromatography to yield 51 mg (32%) of the title compound as white crystals. M.p. 89-91° C.

reactant | N-(2-benzoyl-4-chloro-phenyl)-2-(3,5-bis-trifluoromethyl-phenyl)-isobutyramide | 0.3 mmol, 154 mg | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NC(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C25H18ClF6NO2
reactant | sodium hydride | 0.6 mmol, 26 mg | [H-].[Na+]
reactant | methyl iodide | 0.6 mmol, 85 mg | CI | CH3I
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Benzoyl-4-chloro-phenyl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 51 mg, 32% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C26H20ClF6NO2
